US04292423
About 18.5 g of activated carbon is suspended in 450 g of ethyl acetate. The suspension is mixed first with 1 g of di-n-butyltin dilaurate, then with 1000.5 g of a 75 percent solution of a product obtained from the reaction of tolylenediisocyanates and 1,1,1-trimethylolpropane in ethyl acetate, then with 88.5 g of di-n-butylether and finally with 30 g of a dimethylpolysiloxane having an Si-bonded hydroxyl group in each of its terminal units and having an average of about 13 silicon atoms per molecule. The resultant mixture is refluxed for 1 hour, then cooled to 50° C., and filtered under anhydrous conditions. The filtrate thus obtained has the same properties as the filtrate obtained in Example 2.

reactant | di-n-butyltin dilaurate | 1 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | ethyl acetate | 450 g | C(C)(=O)OCC | C4H8O2
product | 1,1,1-trimethylolpropane | C(O)C(CC)(CO)CO | C6H14O3
